simulator lang=spectre
global 0

ahdl_include "./dut/flash_8level_sum_delay.va"

Vclk (clks 0) vsource type=pwl wave=[0 0 2n 0 2.1n 0.9 2.5n 0.9 2.6n 0 12n 0 12.1n 0.9 12.5n 0.9 12.6n 0 22n 0 22.1n 0.9 22.5n 0.9 22.6n 0 32n 0 32.1n 0.9 32.5n 0.9 32.6n 0 38n 0]
Vvip (vip 0) vsource type=pwl wave=[0 -0.5 8n -0.5 8.1n -0.2 18n -0.2 18.1n 0.0 28n 0.0 28.1n 0.35 38n 0.35]
Vvim (vim 0) vsource dc=0
Vrefp (refp 0) vsource dc=1
Vrefn (refn 0) vsource dc=0
Vreset (reset 0) vsource dc=0.9
XDUT (vip vim clks reset refp refn doutsum doutsumdelay) flash_8level_sum_delay

tran tran stop=36n maxstep=20p
save clks doutsum doutsumdelay refn refp reset vim vip
