simulator lang=spectre
global 0

ahdl_include "./dut/folded_flash_dac_4b.va"

Vvd4 (vd4 0) vsource type=pwl wave=[0 0 17.95n 0 18n 0.9]
Vvd3 (vd3 0) vsource type=pwl wave=[0 0 7.95n 0 8n 0.9 17.95n 0.9 18n 0 27.95n 0 28n 0.9]
Vvd2 (vd2 0) vsource type=pwl wave=[0 0 7.95n 0 8n 0.9 17.95n 0.9 18n 0 27.95n 0 28n 0.9]
Vvd1 (vd1 0) vsource type=pwl wave=[0 0 7.95n 0 8n 0.9 17.95n 0.9 18n 0 27.95n 0 28n 0.9]
XDUT (vd4 vd3 vd2 vd1 vout) folded_flash_dac_4b

tran tran stop=40n maxstep=20p
save vd1 vd2 vd3 vd4 vout
